US06201124B1
A solution of 4-bromo-α,α-dimethyl-α-(4,4-dimethyloxazolin-2-yl)toluene (10.0 g. 0.0338 mole), prepared in accordance with Example 2, in 400 mL THF is cooled to −78° C., n-butyllithium (16 mL, 0.042 mole) is added via syringe, and the mixture is stirred at −78° C. for 30 minutes. While keeping the temperature below −75° C., 4-chlorobutyryl chloride (14.4 g, 0.102 mole) in 30 mL THF is added dropwise, and the mixture is stirred at −78° C. for 30 minutes. The mixture is allowed to warm to −15° C. and is quenched with water. The product is extracted with methylene chloride, washed with saturated NaCl solution, dried over Na2SO4, and concentrated. The residue is cooled to 0° C., treated with minimal acetonitrile, and filtered, to afford 4-(4-chloro-1-oxobutyl)-α,α-dimethyl-α-(4,4-dimethyloxazolin-2-yl) toluene.

reactant | 4-bromo-α,α-dimethyl-α-(4,4-dimethyloxazolin-2-yl)toluene | 0.0338 mole, 10.0 g | BrC1=CC=C(C=C1)C(C=1OCC(N1)(C)C)(C)C | C14H18BrNO
reactant | n-butyllithium | 0.042 mole, 16 mL | C(CCC)[Li]
reactant | 4-chlorobutyryl chloride | 0.102 mole, 14.4 g | ClCCCC(=O)Cl | C4H6Cl2O
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 4-(4-chloro-1-oxobutyl)-α,α-dimethyl-α-(4,4-dimethyloxazolin-2-yl) toluene | ClCCCC(=O)C1=CC=C(C=C1)C(C=1OCC(N1)(C)C)(C)C | C18H24ClNO2
